US04208521
1,5-Dihydro-6-methylimidazo[2,1-b]quinazolin-2(3H)-one
A mixture of N-(2-amino-6-methylbenzyl)glycine ethyl ester (0.972 g, 0.00437 mole) and 2-methyl-2-thiopseudourea sulfate (0.609 g, 0.00219 mole) in absolute ethanol (15 ml) was stirred at reflux for 16 hours. Workup as in Example 2 gave the title compound (47 mg), identical (ir) with authentic material prepared according to the procedure of J. Med. Chem., 18, 224 (1975).

reactant | N-(2-amino-6-methylbenzyl)glycine ethyl ester | 0.00437 mole, 0.972 g | C(C)OC(CNCC1=C(C=CC=C1C)N)=O | C12H18N2O2
reactant | 2-methyl-2-thiopseudourea sulfate | 0.00219 mole, 0.609 g | S(=O)(=O)(O)O.CSC(N)=N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1,5-Dihydro-6-methylimidazo[2,1-b]quinazolin-2(3H)-one | 47 mg | CC1=C2CN3C(=NC2=CC=C1)NC(C3)=O | C11H11N3O
